US06632909B2
A mixture of 5.52 g (40 mmol) of 3,4-dihydroxybenzaldehyde, 6.09 g (44 mmol) of potassium carbonate, 70 mg of potassium iodide, 110 ml of acetone and 6.84 g (40 mmol) of benzyl bromide was refluxed for 15 hours. Thereafter, the mixture was cooled, the reaction suspension was filtered and the filtrate was evaporated down. Chromatography of the residue over silica gel using 9:1 toluene/ethyl acetate gave 3.6 g of 4-benzyloxy-3-hydroxybenzaldehyde.

reactant | 3,4-dihydroxybenzaldehyde | 40 mmol, 5.52 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium carbonate | 44 mmol, 6.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 40 mmol, 6.84 g | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | potassium iodide | 70 mg | [I-].[K+]
solvent | acetone | 110 ml | CC(=O)C | C3H6O
product | 4-benzyloxy-3-hydroxybenzaldehyde | 3.6 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)O | C14H12O3
